US07115611B2
B] [rac]-(2-Methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenylsulfanyl)-acetic acid
0.143 g (0.28 mmol) of the above prepared [rac]-(2-methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenylsulfanyl)-acetic acid tert-butyl ester was dissolved in 2.75 ml of THF/EtOH=1/1, treated with 1.38 ml (3 eq.) of 1N NaOH and kept at ambient temperature for 5 h. The reaction mixture was then poured onto crashed ice/AcOEt/HCl dil., the organic layer was washed with water, dried over sodium sulfate, and evaporated to dryness to leave, since recrystallisation from AcOEt/hexane failed, 0.095 g of the title compound as colorless foam.

reactant | [rac]-(2-methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenylsulfanyl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CSC1=C(C=C(C=C1)OC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C28H30F3NO3S
reactant | NaOH | 1N, 1.38 ml, 3 eq. | [OH-].[Na+]
solvent | THF EtOH | 2.75 ml | C1CCOC1.CCO
product | [rac]-(2-Methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenylsulfanyl)-acetic acid | 0.095 g | CC1=C(C=CC(=C1)OC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)SCC(=O)O | C24H22F3NO3S
